US04997840
Iodomethane (14 ml) was added to a stirred mixture of 2'-amino-4',5'-dimethoxyacetophenone (40 g), potassium carbonate (31.2 g) and dry dimethylformamide (200 ml) and the mixture stirred at ambient temperature for 40 hours. The solvent was evaporated under reduced pressure and the residue triturated with dichloromethane (250 ml). The mixture was filtered and the filter bed washed with dichloromethane (50 ml). The combined filtrate and washing were evaporated and the residue purified by flash chromatography on a silica gel column eluted with dichloromethane:industrial methylated spirit (99:1then 49:1) followed by trituration with diethyl ether (400 ml then 100 ml) to give the novel compound 4',5'-dimethoxy-2'-(methylamino)acetophenone, m.p. 121°-123.5°.

reactant | Iodomethane | 14 ml | IC | CH3I
reactant | 2'-amino-4',5'-dimethoxyacetophenone | 40 g | NC1=C(C=C(C(=C1)OC)OC)C(C)=O | C10H13NO3
reactant | potassium carbonate | 31.2 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | 4',5'-dimethoxy-2'-(methylamino)acetophenone | COC1=CC(=C(C=C1OC)C(C)=O)NC | C11H15NO3
